US06992188B1
1-(1-Ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1H-oxazolo[5,4-c]pyridin-2-one
The title compound was prepared as a grey solid by the method analogous to that described in the Example 21 starting from 4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ol and triphosgene. 1H NMR (CDCl3) δ 6.87(s,2H), 6.55(s,1H), 3.98(m,1H), 2.29(s,3H), 2.28(s,3H), 2.09(s,6H), 1.9–2.05(m,2H), 1.8–1.9(m,2H), 0.90(t,6H) ppm.

reactant | 4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ol | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)O | C20H28N2O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | 1-(1-Ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1H-oxazolo[5,4-c]pyridin-2-one | C(C)C(CC)N1C(OC=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C)=O | C21H26N2O3
